US05576343
Preparation of Methyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(5-cyano-1-methyl-2-indolyl)propionate
3.0 g of methyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(5-cyano-2-indolyl)propionate was dissolved in 30 ml of N,N-dimethylformamide, and then stirred under ice cooling. 270 mg of 60% sodium hydride was added to the above solution, and the stirring was continued for 10 minutes. The resulting reaction solution was mixed with 0.4 ml of methyl iodide, and the mixture was stirred at room temperature for 1 hour. The thus treated reaction solution was diluted with a toluene/ethyl acetate mixture, and then washed with an aqueous solution of ammonium chloride. After drying the resulting organic layer to distill off the solvent, the residue thus obtained was purified by subjecting it to silica gel column chromatography using a dichloromethane/acetone mixture as an elution solvent. In this way, 2.0 g of the title compound was obtained in a viscous and oily form.

reactant | methyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(5-cyano-2-indolyl)propionate | 3.0 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C(C(=O)OC)CC=1NC2=CC=C(C=C2C1)C#N | C28H31N3O5
reactant | sodium hydride | 270 mg | [H-].[Na+]
reactant | methyl iodide | 0.4 ml | CI | CH3I
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | Methyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(5-cyano-1-methyl-2-indolyl)propionate | 2.0 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C(C(=O)OC)CC=1N(C2=CC=C(C=C2C1)C#N)C | C29H33N3O5
